US06809199B2
Step A: 2,6-Dibromo-4-iodotoluene
To a solution of 3,5-dibromo-4-methylaniline (4.17 g, 15.74 mmol) in CH2I2 (10 mL) was added tert-butylnitrite (3.0 mL, 23.61 mmol) slowly at 0° C. while stirring vigorously. The ice bath was removed and the reaction mixture was stirred at rt while the reaction was very exothermic, then placed in 80° C. oil bath and heated for 20 min. CH2I2 was distilled off under high vacuum, and the remaining residue was purified by flash chromatography eluting with 100% hexane to give the title compound.

reactant | 3,5-dibromo-4-methylaniline | 15.74 mmol, 4.17 g | BrC=1C=C(N)C=C(C1C)Br | C7H7Br2N
reactant | tert-butylnitrite | 23.61 mmol, 3.0 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | CH2I2 | 10 mL | C(I)I | CH2I2
product | 2,6-Dibromo-4-iodotoluene | BrC1=C(C(=CC(=C1)I)Br)C | C7H5Br2I
